US07351858B2
c) Methyl 2-{2-[4-(2-tert-butoxy-2-oxoethoxy)phenyl]ethoxy}benzoate
Methyl salicylate (2.7 ml, 21.187 mmol) was dissolved in acetonitrile, and potassium carbonate (5.856 g, 42.373 mmol) was added. The mixture was cooled to −10° C. then tert-butyl (4-{2-[(methylsulfonyl)oxy]ethyl}phenoxy)acetate was added. The mixture was boiled under reflux for 16 hours, and then the solvent was evaporated under reduced pressure. The residue was dissolved in EtOAc, washed with water and brine, then the organic layer was dried with MgSO4 and the solvent was removed by evaporation. The crude material was purified by flash chromatography (silica gel 60 0.004-0.063 mm) using EtOAc: Toluene 50:50 as the eluant. The fractions which contained the desired product were pooled, and solvent evaporated. This gave 5.0 g of pure product (yield 61.1%).

reactant | Methyl salicylate | 21.187 mmol, 2.7 ml | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | potassium carbonate | 42.373 mmol, 5.856 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl (4-{2-[(methylsulfonyl)oxy]ethyl}phenoxy)acetate | CS(=O)(=O)OCCC1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C15H22O6S
solvent | acetonitrile | C(C)#N | C2H3N
product | Methyl 2-{2-[4-(2-tert-butoxy-2-oxoethoxy)phenyl]ethoxy}benzoate | 5.0 g, yield 61.1% | C(C)(C)(C)OC(COC1=CC=C(C=C1)CCOC1=C(C(=O)OC)C=CC=C1)=O | C22H26O6
